US09145354B2
[3-(1-Amino-propyl)-6-chloro-2-fluoro-phenyl]-(4-hydroxy-phenyl)-methanone
Step 3 Boron trichloride (1M in dichloromethane, 10 ml) was added to a solution of tert-butyl N-[(1R)-1-(3-{[4-(benzyloxy)phenyl]carbonyl}-4-chloro-2-fluorophenyl)propyl]carbamate (1.53 g, 3.07 mmol) in dichloromethane (50 ml) in an ice/water bath. The mixture was stirred for 30 minutes then the reaction mixture was poured onto ice/water. The aqueous was basified with saturated sodium bicarbonate and then extracted with dichloromethane (×2). The organic liquors were concentrated and then treated with 2N hydrochloric acid in ethyl acetate to remove protecting group. The residue was concentrated and re-concentrated from ethyl acetate. A solid was obtained from ethyl acetate/diethyl ether mixtures which was isolated by filtration and dried in a vacuum oven to furnish the title compound as an off-white solid (481 mg).

reactant | Boron trichloride | 1M, 10 ml | B(Cl)(Cl)Cl | BCl3
reactant | tert-butyl N-[(1R)-1-(3-{[4-(benzyloxy)phenyl]carbonyl}-4-chloro-2-fluorophenyl)propyl]carbamate | 3.07 mmol, 1.53 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)C=1C(=C(C=CC1Cl)[C@@H](CC)NC(OC(C)(C)C)=O)F | C28H29ClFNO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [3-(1-Amino-propyl)-6-chloro-2-fluoro-phenyl]-(4-hydroxy-phenyl)-methanone | 481 mg | NC(CC)C=1C(=C(C(=CC1)Cl)C(=O)C1=CC=C(C=C1)O)F | C16H15ClFNO2
